US04695312
(3) 4-Chloro-5-difluoromethoxy-2-fluoroaniline XIII-1
To 5 g of 4-chloro-5-difluoromethoxy-2-fluoronitrobenzene XII-1 were added 10.4 ml of ethanol and 20.7 ml of hydrochloric acid, and the resultant mixture was stirred at room temperature. A solution of 14 g of stannous chloride dihydrate in 20.7 ml of ethanol was dropwise added in 10 minutes to the mixture, which was stirred for 20 hours. The reaction mixture was basified with 10% aqueous sodium hydroxide and shaken with chloroform. The chloroform layer was dried and concentrated. The residue was chromatographed on a column of silica gel, eluting with n-hexane-ethyl acetate (100:15 v/v). The eluate was concentrated to give 3.8 g of the titled compound XIII-1.

reactant | 4-chloro-5-difluoromethoxy-2-fluoronitrobenzene | 5 g | ClC1=CC(=C(C=C1OC(F)F)[N+](=O)[O-])F | C7H3ClF3NO3
reactant | hydrochloric acid | 20.7 ml | Cl | ClH
reactant | sodium hydroxide | [OH-].[Na+]
reactant | chloroform | C(Cl)(Cl)Cl | CHCl3
solvent | ethanol | 20.7 ml | C(C)O | C2H6O
solvent | ethanol | 10.4 ml | C(C)O | C2H6O
product | 4-Chloro-5-difluoromethoxy-2-fluoroaniline | 3.8 g | ClC1=CC(=C(N)C=C1OC(F)F)F | C7H5ClF3NO
